US08378104B2
Step A: tert-butyl 4-{4-[7-amino-2-(1-benzothiophen-7-yl)furo[2,3-c]pyridine-4-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate
A solution of 7-benzothiophene boronic acid, 4-[4-(7-amino-2-chloro-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (150 mg, 359 μmol), Pd(dppf)Cl2 (2.63 mg, 3.59 μmol), K2CO3, (74.4 mg, 538 μmol) in 1,4-dioxane (1.96 mL), and H2O (647 μL) was degassed and refilled with argon (3×). The reaction was heated in a microwave reactor at 100° C. for 70 min. The reaction was diluted with water, extracted with EtOAc (3×) and the combined extracts were dried over Na2SO4, then concentrated in vacuo to give a solid. The solid was purified by flash chromatography (60-100% EtOAc:hexanes) to afford 96 mg (64%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 8.03 (d, J=7.33 Hz, 1 H), 7.88-7.99 (m, 3 H), 7.75 (s, 1 H), 7.61 (d, J=5.31 Hz, 1 H), 7.56 (t, J=7.71 Hz, 1 H), 7.50 (d, J=5.56 Hz, 1 H), 7.44 (s, 1 H), 5.53 (br s, 2 H), 4.25-4.48 (m, 3 H), 2.90-3.01 (m, 2 H), 2.24 (d, J=15.16 Hz, 2 H), 1.97-2.11 (m, 2 H), 1.51 (s, 9 H); MS (ESI): 516.16 [M+H]+; HPLC tR=2.66 min.

reactant | 7-benzothiophene boronic acid | S1C=CC2=C1C(=CC=C2)B(O)O | C8H7BO2S
reactant | 4-[4-(7-amino-2-chloro-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 359 μmol, 150 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl | C20H24ClN5O3
reactant | K2CO3 | 538 μmol, 74.4 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 1.96 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(dppf)Cl2 | 3.59 μmol, 2.63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 647 μL | O | H2O
product | tert-butyl 4-{4-[7-amino-2-(1-benzothiophen-7-yl)furo[2,3-c]pyridine-4-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate | 96 mg, 64% | NC=1N=CC(=C2C1OC(=C2)C2=CC=CC=1C=CSC12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C28H29N5O3S
